datasets/RMG-dataset.csv
rxn,Ea
[H:0].[c:1]1([H:17])[c:2]([H:18])[c:3]2[c:4]([H:19])[c:5]([H:20])[c:6]3[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]4[c:11]([H:24])[c:12]([H:25])[c:13]([c:14]1[H:26])[c:15]2[c:16]34>>[H:0][H:17].[c:1]1[c:2]([H:18])[c:3]2[c:4]([H:19])[c:5]([H:20])[c:6]3[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]4[c:11]([H:24])[c:12]([H:25])[c:13]([c:14]1[H:26])[c:15]2[c:16]34,71.529664
[C:0]#[N:1].[H:2][H:3]>>[C:0](#[N:1])[H:3].[H:2],12.552
[C:0](#[C:1][C:2]=[S:3])[H:4].[S:5]=[C:6]([S:7][H:9])[H:8]>>[C:0](#[C:1][C:2](=[S:3])[H:8])[H:4].[S:5]=[C:6][S:7][H:9],64.4336
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])=[C:2]([H:13])[C:3]([H:14])([H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24],94.8513
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([O:15][O:16])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:16][O:15][C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([H:21])([H:22])[H:23])[H:20],62.3416
[O:0]=[C:1]1[O:2][C:3]2([H:8])[C:4]([H:9])=[C:5]([H:10])[C:6]([H:11])[C:7]12[H:12]>>[O:0]=[C:1]1[O:2][C:3]2([H:8])[C:4]([H:9])=[C:5]([H:10])[C:6]1([H:11])[C:7]2[H:12],122.750192
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[O:5][H:15])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:6])[H:7].[O:5]([H:15])[H:16],74.4647
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:8])([H:6])[H:7],36.2334
[C:0](#[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8]>>[C:0](#[C:1][c:2]1[c:3][c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[H:9],619.591824
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11](=[S:12])[H:13]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11](=[S:12])[H:13],37.2376
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:18]([C:17](=[C:16]([H:22])[H:23])[H:24])([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:8],63.6805
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[O:12][H:13]>>[C:0](=[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])[H:5].[H:6][O:12][H:13],2.0003704
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([C:28]([H:38])([H:39])[H:40])[c:29]1[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]1[H:45])([H:35])([H:36])[H:37]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27]([C:26]([H:35])([H:36])[H:37])([C:28]([H:38])([H:39])[H:40])[c:29]1[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]1[H:45])[H:14])([H:12])[H:13],37.405
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11],123.0096
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14][H:15]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:14][H:15],1.97025
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])[H:12],153.093
[C:0](=[C:1]([C:2]#[C:3][C:4]#[C:5][H:8])[H:7])[H:6].[H:9]>>[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:8])[H:6].[H:7][H:9],0.0
